US08580841B2
Preparation of 2-(7-(4-Carbamoyl-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic acid (Compound 29)
To a solution of 2-(7-(4-cyano-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic acid (9.0 mg, 0.022 mmol) in dioxane (1 mL) was added 1M LiOH (aq) (3.0 mL). The reaction was stirred at 50° C. for 48 h. 1M HCl (aq) was added to adjust pH to 3. The mixture was extracted with EtOAc. The EtOAc extract was dried over MgSO4 and the residue was purified by preparative HPLC/MS to give the title compound as a solid (2.1 mg). LCMS m/z=433.2 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.01-2.14 (m, 1H), 2.32-2.42 (m, 1H), 2.57-2.78 (m, 4H), 5.20 (s, 2H), 6.72 (d, J=11.37 Hz, 1H), 6.93 (d, J=2.40 Hz, 1H), 7.20 (d, J=8.72 Hz, 1H), 7.50-7.59 (m, 2H), 7.76 (d, J=7.58 Hz, 1H), 7.82 (s, 1H), 7.91 (s, 1H), 10.47 (s, 1H), 12.17 (bs, 1H).

reactant | 2-(7-(4-cyano-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic acid | 0.022 mmol, 9.0 mg | C(#N)C1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=C1)C(F)(F)F | C22H17F3N2O3
reactant | LiOH | 1M, 3.0 mL | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-(7-(4-Carbamoyl-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic acid | 2.1 mg | C(N)(=O)C1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=C1)C(F)(F)F | C22H19F3N2O4
